US08227478B2
A mixture of 4-iodo-1-(2-methanesulfinyl-pyrimidin-4-yl)-1H-benzotriazole (700 mg) and 1-methanesulfonyl-piperidin-4-ylamine (642 mg) in 1,4-dioxane (20 mL) was stirred under argon, then heated at 110° C. for 4.5 h. The reaction mixture was then cooled, and the solvent removed in vacuo to provide a solid. The solid was chromatographed on silica using 0-100% EtOAc/hexanes to provide [4-(4-iodobenzotriazol-1-yl)-pyrimidin-2-yl]-(1-methanesulfonyl-piperidin-4-yl)-amine (731 mg).

reactant | 4-iodo-1-(2-methanesulfinyl-pyrimidin-4-yl)-1H-benzotriazole | 700 mg | IC1=CC=CC=2N(N=NC21)C2=NC(=NC=C2)S(=O)C | C11H8IN5OS
reactant | 1-methanesulfonyl-piperidin-4-ylamine | 642 mg | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | [4-(4-iodobenzotriazol-1-yl)-pyrimidin-2-yl]-(1-methanesulfonyl-piperidin-4-yl)-amine | 731 mg | IC1=CC=CC=2N(N=NC21)C2=NC(=NC=C2)NC2CCN(CC2)S(=O)(=O)C | C16H18IN7O2S
